US06992083B2
4-Fluoro-N-(4-methoxy-7-morpholin-4-yl-benzooxazol-2-yl)-benzamide
From 4-fluorobenzoic acid, HATU and N-diethylisopropylamine in THF, then treatment with 4-methoxy-7-morpholin-4-yl-benzooxazol-2-ylamine in dioxane and DMF. ES-MS m/e (%): 372 (M+H+, 100).

reactant | 4-fluorobenzoic acid | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methoxy-7-morpholin-4-yl-benzooxazol-2-ylamine | COC1=CC=C(C2=C1N=C(O2)N)N2CCOCC2 | C12H15N3O3
solvent | THF | C1CCOC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-Fluoro-N-(4-methoxy-7-morpholin-4-yl-benzooxazol-2-yl)-benzamide | FC1=CC=C(C(=O)NC=2OC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C19H18FN3O4
